US06878713B2
1-Carbethoxy-4-methylamino-3-methylpiperidine (4.0 g, 18.34 mmol) was suspended in 5 M NaOH solution (15 ml), stirred at 110° C. for 24 hr, cooled, extracted with ethyl acetate, dried (Na2SO4) and concentrated to dryness to afford 4-methylamino-3-methyl-piperidine. Yield 1.8 g (77%), C7H16N2, m/z 129 (M+1), PMR (CDCl3): 0.92 (dd, 3H), 1.54 (m, 1H), 2.12 (m, 2H), 2.38 (s, 3H), 2.6 (m, 1H), 2.8 (m, 1H), 3.02 (m,1H), 3.42 (m,1H), 3.68 (m,1H).

reactant | 1-Carbethoxy-4-methylamino-3-methylpiperidine | 18.34 mmol, 4.0 g | C(=O)(OCC)N1CC(C(CC1)NC)C | C10H20N2O2
solvent | NaOH | 5 M, 15 ml | [OH-].[Na+]
product | 4-methylamino-3-methyl-piperidine | CNC1C(CNCC1)C | C7H16N2
